Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / morphine / Demerol
 
Attending: ___.
 
Chief Complaint:
AMS, confusion, word-finding difficulty, hypertension
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ with a history of paroxysmal afib on 
aspirin 81 mg, HTN, remote colon cancer who presents as transfer 
from ___ with HTN, headache, and confusion.  
The night prior to admission, she developed a headache and began 
to feel confused and early in the AM called her family saying 
she needed an ambulance. She felt confused, was not able to 
remember the names of her family members and had difficulty 
"getting words out." No weakness, numbness, dizziness. At ___ 
her initial BPs were 180s systolic. she received aspirin 325 mg 
and had a CT head and MRI which were read as negative for CVA. 
Outside labs were notable for Sodium 133, Dig 0.4, normal CBC 
and coags, and negative troponin.  
She was also given dilaudid for her headache. Her confusion 
persisted with waxing and waning features. On arrival to ___ 
she was not able to appropriately answer questions but was still 
complaining of HA. She/family refused LP and EEG.  

In the ED, initial VS were: 97.5 F, HR 57, BP 164/81, RR 20, 98% 
RA  
Initial exam notable for:  
 Dec orientation, recall, concentration. Initial neuro exam 
significant for: disorientation, inattention, mild anomia 
without other focal findings.  
 CN2-12 intact - EOMI, PERRL  
 Dec finger to nose  
 Normal distal S/S  
 Bradycardic ___, regular rhythm, systolic ejection murmur 
(known)  
 Labs showed:  
 WBC 8.8, Hgb 13, plts 228  
 lytes within normal limits, Cr 0.7  
 LFTs within normal limits  
 trop <0.01  
 UA bland  
 utox negative  
 Patient received:  
 ___ 16:33 IV Prochlorperazine 10 mg  
 ___ 23:53 PO/NG amLODIPine 2.5 mg  
 ___ 23:53 PO/NG Metoprolol Tartrate 25 mg  
 ___ 23:53 PO/NG Digoxin .125 mg  
 Transfer VS were: 98.5 93 114/57 16 98% 2L NC  
 On arrival to the floor, patient reports that her headache, 
confusion, and difficulty with speech have completely resolved. 
She feels completely back to baseline and her son agrees. She 
remembers feeling confused but feels better now. No weakness, 
paraesthesias, CP, palpitations, SOB, cough, dizziness, fever, 
neck stiffness.  
 REVIEW OF SYSTEMS:  
 10 point ROS reviewed and negative except as per HPI 
 
Past Medical History:
-HTN  
-pafib on ASA 81 --previously on apixaban but this was stopped  
after having guiac positive stools.  
-colon cancer in ___  
-s/p rotator cuff surgery  
-GERD  
-hiatal hernia  
-osteoarthritis  
-osteopenia  
-Basal cell carcinoma s/p L face resection.  
-s/p bilateral cataract surgeries  
-keratectomy ___  
-retinal detachments and repairs in ___ and ___  
-multiple laser cryoplasty for retinal tears.  
-bilateral arthroscopic knee surgery  
 
Social History:
___
Family History:
Father with afib, MI, CHF  
Mother with smoker, COPD  
MGM with stroke  
No family history of seizure.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: 98.8 PO 128 / 76 83 12 93 RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
HEART: RRR, S1/S2, soft systolic murmur  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding,  
EXTREMITIES: warm, no edema  
NEURO: A&Ox4, strength ___ in UE and ___ bilaterally, sensation 
intact, CN II-XII intact and symmetric bilaterally  

DISCHARGE PHYSICAL EXAM
VS: 98.3, 80, 117/70, 18, 95% on room air.
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
HEART: Irregularly irregular, S1/S2, soft systolic murmur  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding,  
EXTREMITIES: warm, no edema  
NEURO: A&Ox4, strength ___ in UE and ___ bilaterally, sensation
intact, CN II-XII intact and symmetric bilaterally  
 
Pertinent Results:
ADMISSION LABS
___ 02:52PM BLOOD WBC-8.8 RBC-4.38 Hgb-13.0 Hct-39.7 MCV-91 
MCH-29.7 MCHC-32.7 RDW-13.5 RDWSD-44.8 Plt ___
___ 02:52PM BLOOD Neuts-78.2* Lymphs-14.0* Monos-7.2 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-6.85* AbsLymp-1.23 
AbsMono-0.63 AbsEos-0.01* AbsBaso-0.02
___ 02:52PM BLOOD Glucose-112* UreaN-12 Creat-0.7 Na-137 
K-5.0 Cl-98 HCO3-24 AnGap-15
___ 02:52PM BLOOD ALT-20 AST-36 AlkPhos-101 TotBili-0.8
___ 02:52PM BLOOD cTropnT-<0.01
___ 04:35AM BLOOD TSH-2.9
___ 04:35AM BLOOD T4-6.9
___ 02:52PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

PERTINENT FINDINGS
___ opinion read of MRI from ___
There is moderate global parenchymal volume loss.  There is no 
acute infarct, intracranial hemorrhage, or mass effect.  Areas 
of hyperintense signal on T2/FLAIR within the subcortical, 
periventricular, and deep white matter are nonspecific, but 
likely reflect the sequela of moderate chronic small vessel 
disease.  The major vascular flow voids are preserved.
 
There are bilateral scleral bands and bilateral lens implants.
 
IMPRESSION: 
Probable moderate chronic small vessel disease.  No acute 
infarct or
intracranial hemorrhage.

DISHCARGE LABS
___ 04:35AM BLOOD WBC-7.9 RBC-4.35 Hgb-13.0 Hct-39.0 MCV-90 
MCH-29.9 MCHC-33.3 RDW-13.2 RDWSD-43.7 Plt ___
___ 04:35AM BLOOD Glucose-95 UreaN-13 Creat-0.6 Na-136 
K-4.1 Cl-99 HCO3-25 AnGap-___ with a history of paroxysmal afib on aspirin 81 mg, HTN, 
remote colon cancer who presented as transfer from ___ 
___ with history of R. eye blurriness and fireworks, HTN, 
headache, confusion, and word-finding difficulty concerning 
complex migraine with aura. 

ACUTE ISSUES
================
# Encephalopathy
Patient presented with symptoms of confusion, headache, word 
finding difficulty in the setting of hypertension. She had had 
recent history of right eye blurriness 2 days prior as well as 
what was described as fireworks being seen from the right eye. 
She was evaluated at ___ with a CT and MRI which 
were both negative. She was then transferred to ___ for second 
opinion evaluation. While in the emergency room at ___ 
___ she was found to be hypertensive to 
160s with continuing symptoms. Her blood pressure was controlled 
with amlodipine and metoprolol, she was given prochlorperazine 
for headache and associated symptoms and her clinical status 
improved to baseline. She was evaluated by neurology whose 
assessment was consistent with complex migraine with aura and 
that she did not require any further diagnostic evaluation. MRI 
was re-reviewed by ___ radiology, which demonstrated likely 
chronic small vessel disease, without evidence of acute 
infarction or hemorrhage. She was felt unlikely to have TIA or 
acute stroke at this time. She was counseled on abortive agents, 
for which she has used fiorinal. She was encouraged to use 
Fioricet in the future.

CHRONIC ISSUES
================
#Atrial fibrillation.
She was continued on her 81 mg aspirin daily, 25 mg metoprolol 
tartrate BID, and digoxin. No anticoagulation was started at 
this hospitalization.
#Hypertension. Continued on amlodipine and metoprolol. 

TRANSITIONAL ISSUES
======================
- Follow up with cardiologist Dr. ___ for 
reinitiation of anticoagulation as increased risk of stroke 
given her atrial fibrillation.
- If having continuing issues with migraine symptoms, referral 
to neurology will be needed. For now, abortive therapy with 
Fioricet.
#CODE: Full (presumed) 
#CONTACT: ___ 
Phone number: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5-5 mg PO DAILY:PRN hypertension 
2. Aspirin 81 mg PO DAILY 
3. Metoprolol Tartrate 25 mg PO BID 
4. Digoxin 0.125 mg PO 6X/WEEK (___) 
5. Omeprazole 20 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Ascorbic Acid ___ mg PO DAILY 
8. Cinnamon (cinnamon bark) ___ mg oral DAILY 
9. Fish Oil (Omega 3) 1200 mg PO DAILY 
10. glucosamine-chondroitin 1500/1200 mg oral DAILY 
11. cranberry 4200  oral DAILY 
12. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
13. Azo Bladder Control (pumpkin seed extract-soy germ) 300 mg 
oral DAILY 
14. Fiber (psyllium husk) (psyllium husk) 0.4 gram oral DAILY 
15. Ocuvite Lutein and Zeaxanthin (vit 
C,E-Zn-coppr-lutein-zeaxan) 60 mg-30 unit- 15 mg-2 mg-6 mg oral 
DAILY 
16. Vitamin B Complex w/C 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not exceed 6 tablets/day 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg 1 (one) 
tablet(s) by mouth every six hours Disp #*10 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  amLODIPine 2.5 mg PO DAILY:PRN hypertension  
4.  Ascorbic Acid ___ mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Azo Bladder Control (pumpkin seed extract-soy germ) 300 mg 
oral DAILY  
7.  Cinnamon (cinnamon bark) ___ mg oral DAILY  
8.  cranberry 4200  oral DAILY  
9.  Digoxin 0.125 mg PO 6X/WEEK (___)  
10.  Fiber (psyllium husk) (psyllium husk) 0.4 gram oral DAILY  
11.  Fish Oil (Omega 3) 1200 mg PO DAILY  
12.  glucosamine-chondroitin 1500/1200 mg oral DAILY  
13.  Metoprolol Tartrate 25 mg PO BID  
14.  Multivitamins 1 TAB PO DAILY  
15.  Ocuvite Lutein and Zeaxanthin (vit 
C,E-Zn-coppr-lutein-zeaxan) 60 mg-30 unit- 15 mg-2 mg-6 mg oral 
DAILY  
16.  Omeprazole 20 mg PO DAILY  
17.  Vitamin B Complex w/C 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
- Complex migraine with aura
- encephalopathy

SECONDARY DIAGNOSES
- hypertension
- atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
WHAT BROUGHT YOU INTO THE HOSPITAL?
- You were admitted for your confusion, word-finding difficulty, 
and headaches.

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
- Your MRI of your brain was reviewed by our radiologists.
- You were assessed by our neurologists, the doctors of the 
___, who explained these symptoms as a migraine. 

WHAT SHOULD YOU DO UPON LEAVING THE HOSPITAL?
- It is important that you follow up with your cardiologist Dr. 
___ your atrial fibrillation.
 
Followup Instructions:
___